US08138178B2
(S)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one
To a solution of (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one (112 mg, 0.259 mmol) in 1,4-dioxane (3 mL) was added 6-oxo-1,6-dihydropyridin-3-ylboronic acid (55 mg, 0.40 mmol), followed by Pd(dppf)Cl2 (11 mg, 0.015 mmol), and an aq solution of Cs2CO3 (0.48 mL, 2M in H2O). A reflux condenser was attached and the apparatus was degassed and flushed with N2 three times. The reaction was heated to 90° C. for 24 h. After cooling to rt the mixture was diluted with water and extracted three times with EtOAc. The organic layers were washed with brine, dried over Na2SO4, filtered and concentrated. The residue was purified by prep HPLC to afford the title compounds (21.6 mg) as an oil. LC-MS Method 1 tR=1.25 min, m/z=447, 389; 1H NMR (CD3OD) 0.96 (s, 3H), 1.28 (s, 3H), 1.57 (d, 3H), 2.16 (s, 2H), 2.21 (m, 1H), 2.46 (m, 2H), 3.03 (m, 1H), 5.57 (q, 1H), 6.66 (d, 1H), 7.02 (d, 2H), 7.25-7.40 (7H), 7.66 (s, 1H), 7.90 (d, 1H).

reactant | (S)-3-((S)-1-(4-bromophenyl)ethyl)-6-(2-hydroxy-2-methylpropyl)-6-phenyl-1,3-oxazinan-2-one | 0.259 mmol, 112 mg | BrC1=CC=C(C=C1)[C@H](C)N1C(O[C@](CC1)(C1=CC=CC=C1)CC(C)(C)O)=O | C22H26BrNO3
reactant | 6-oxo-1,6-dihydropyridin-3-ylboronic acid | 0.40 mmol, 55 mg | O=C1C=CC(=CN1)B(O)O | C5H6BNO3
reactant | Cs2CO3 | 2M, 0.48 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.015 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (S)-6-(2-hydroxy-2-methylpropyl)-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-6-phenyl-1,3-oxazinan-2-one | 21.6 mg | OC(C[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CNC(C=C1)=O)C1=CC=CC=C1)(C)C | C27H30N2O4
